US07507738B2
Toluene (10 ml) was added to N-benzyloxycarbonyl-glycine methyl ester (1.50 g, 6.73 mmol) and tert-butoxybisdimethylaminomethane (1.83 ml, 8.91 mmol) and the mixture was stirred overnight at 70° C. The mixture was washed with saturated brine and concentrated under reduced pressure. MTBE (20 ml) and 1N hydrochloric acid (15 ml) were added to the residue in an ice bath and the mixture was stirred at room temperature for 2 hr. Thereafter, the mixture was separated and the organic layer was washed with saturated brine. A solution (1.23 g, 6.39 mmol) of 28% sodium methoxide in methanol was added drop-wise and the mixture was concentrated under reduced pressure. The solvent was substituted by acetonitrile and O-methylisourea hydrochloride (0.72 g, 6.50 mmol) was added. The mixture was stirred overnight at 70° C. and concentrated. Water (5 ml) was added and the mixture was stirred for 1 hr. The precipitate was collected by filtration and vacuum dried to give 2-methoxy-6-oxo-5-benzyloxycarbonylamino-1,6-dihydropyrimidine (1.43 g, 5.20 mmol).

reactant | N-benzyloxycarbonyl-glycine methyl ester | 6.73 mmol, 1.50 g | COC(CNC(=O)OCC1=CC=CC=C1)=O | C11H13NO4
reactant | tert-butoxybisdimethylaminomethane | 8.91 mmol, 1.83 ml | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
reactant | sodium methoxide | 6.39 mmol, 1.23 g | C[O-].[Na+]
reactant | O-methylisourea hydrochloride | 6.50 mmol, 0.72 g | Cl.COC(N)=N
solvent | methanol | CO | CH4O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | Toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-methoxy-6-oxo-5-benzyloxycarbonylamino-1,6-dihydropyrimidine | 5.20 mmol, 1.43 g | COC=1NC(C(=CN1)NC(=O)OCC1=CC=CC=C1)=O | C13H13N3O4
